US07608629B2
Preparation 75. 4-(3-Fluoro-5-nitro-phenylsulfanyl)-1-methyl-piperidine
Combine 1-methyl-piperidine-4-thiol (1.4 g, 10.67 mmol) and N,N-dimethylformamide (10 mL) and cool to 0° C. Add 95% sodium hydride (0.28 g, 11.20 mmol), warm to ambient temperature and stir. After 40 min., add 1,3-difluoro-5-nitro-benzene (1.21 mL, 10.67 mmol), stir and heat at 65° C. After 3 hr., cool to ambient temperature and add water (50 mL). Extract with ethyl acetate (3×50 mL), wash combined organic layers with water (3×50 mL), aqueous NaCl solution (50 mL), dry organic layer over sodium sulfate, filter and concentrate. Purify residue by silica gel flash chromatography eluting with 10% (2M NH3/methanol)/methylene dichloride to obtain the title compound (0.31 g, 11%). Mass spectrum (electrospray): m/z=271.1 (M+1).

reactant | 1-methyl-piperidine-4-thiol | 10.67 mmol, 1.4 g | CN1CCC(CC1)S | C6H13NS
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 11.20 mmol, 0.28 g | [H-].[Na+]
reactant | 1,3-difluoro-5-nitro-benzene | 10.67 mmol, 1.21 mL | FC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | water | 50 mL | O | H2O
product | 4-(3-Fluoro-5-nitro-phenylsulfanyl)-1-methyl-piperidine | 0.31 g, 11% | FC=1C=C(C=C(C1)[N+](=O)[O-])SC1CCN(CC1)C | C12H15FN2O2S
